US05075303
7-Amino-5,6,7,8-tetrahydroquinoline
This compound was prepared from ammonium acetate (1 54 g, 20 mmol) and 5,6-dihydroquinoline (2.31 g, 10 mmol) using the method described in Example 36 and ethyl acetate instead of ether as the extracting solvent.

reactant | ammonium acetate | 20 mmol, 54 g | C(C)(=O)[O-].[NH4+]
reactant | 5,6-dihydroquinoline | 10 mmol, 2.31 g | N1=CC=CC=2CCC=CC12 | C9H9N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Amino-5,6,7,8-tetrahydroquinoline | NC1CCC=2C=CC=NC2C1 | C9H12N2
